US06664281B1
5-Hexynoic Acid (3-Methyloxetan-3-yl)methyl Ester
To a solution of 5-hexynoic acid (10.0 g) and 3-methyl-3-oxetane methanol (10.0 g) in methylene chloride (50 ml), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (20.5 g), and 4-dimethylaminopyridine (1.09 g) were added under cooling with ice. The mixture was stirred at room temperature for 45 minutes. The reaction mixture was poured into iced water and extracted with ethyl acetate. The organic layer was washed by water and an aqueous saturated solution of sodium chloride, sucessively, dried over anhydrous magnesium sulfate and concentrated. The residue was purified with silica gel column chromatography (n-hexane:ethyl acetate=4:1) to obtain the title compound (16.7 g) having the following physical data.

reactant | 5-hexynoic acid | 10.0 g | C(CCCC#C)(=O)O | C6H8O2
reactant | 3-methyl-3-oxetane methanol | 10.0 g | CC1(COC1)CO | C5H10O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 20.5 g | Cl.C(C)N=C=NCCCN(C)C
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.09 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Hexynoic Acid (3-Methyloxetan-3-yl)methyl Ester | 16.7 g | CC1(COC1)COC(CCCC#C)=O | C11H16O3
